US09381200B2
Step-3: trans-{7-oxo-2-[N′—((R)-piperidin-3-carbonyl)-hydrazinocarbonyl]-1,6-diaza-bicyclo[3.2.1]-oct-6-yloxy}-acetic acid
To a clear solution of trans-3-{N′-(6-carboxymethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester (150 mg, 0.32 mmol) in dichloromethane (2 ml) was added trifluoroacetic acid under stirring at −10° C. The reaction mixture was stirred for about 1 hour at −10° C. and the solvents were evaporated under vacuum to provide a residue. The residue was triturated successively with diethyl ether (25 ml) and acetonitrile (25 ml) and solvents were decanted to provide solid that was dried under vacuum to provide 59 mg of titled compound in 50% yield.

reactant | trans-3-{N′-(6-carboxymethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester | 0.32 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OCC(=O)O)=O | C20H31N5O8
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-{7-oxo-2-[N′—((R)-piperidin-3-carbonyl)-hydrazinocarbonyl]-1,6-diaza-bicyclo[3.2.1]-oct-6-yloxy}-acetic acid | 59 mg, 50% yield | O=C1N([C@@H]2CC[C@@H](N1C2)C(=O)NNC(=O)[C@H]2CNCCC2)OCC(=O)O | C15H23N5O6
